US04334097
N-α-Methoxyethyl-N-ethyl-formamide
8.0 g of triethylamine and then a mixture of 42.5 g of triethylamine (0.5 mole in total) and 14.6 g (0.2 mole) of N-ethylformamide are added dropwise, at 0° C., to a mixture of 60 ml of light petroleum and 38 g (0.4 mole) of α-chloroethyl methyl ether.

reactant | N-ethylformamide | 0.2 mole, 14.6 g | C(C)NC=O | C3H7NO
reactant | α-chloroethyl methyl ether | 0.4 mole, 38 g | COC(C)Cl | C3H7ClO
solvent | triethylamine | 8.0 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.5 mole, 42.5 g | C(C)N(CC)CC | C6H15N
product | N-α-Methoxyethyl-N-ethyl-formamide | COC(C)N(C=O)CC | C6H13NO2
